US04165377
To a solution of (N-methylamidino)thiourea (0.4 g.) in hot ethanol (20 ml.) was added N-(6-bromo-5-oxohexyl)phthalimide (1.5 g.). The mixture was heated under reflux for 1 hour, cooled and evaporated to dryness. The residue was triturated with acetonitrile and the resulting solid was filtered and dried to give 2-(2-methylguanidino)-4-(4-phthalimidobutyl)thiazole hydrobromide, m.p. 210°-212° C.

reactant | (N-methylamidino)thiourea | 0.4 g | CNC(=N)NC(=S)N | C3H8N4S
reactant | N-(6-bromo-5-oxohexyl)phthalimide | 1.5 g | BrCC(CCCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H14BrNO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2-methylguanidino)-4-(4-phthalimidobutyl)thiazole hydrobromide | Br.CN=C(NC=1SC=C(N1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O)N | InChI=1S/C17H19N5O2S.BrH/c1-19-16(18)21-17-20-11(10-25-17)6-4-5-9-22-14(23)12-7-2-3-8-13(12)15(22)24;/h2-3,7-8,10H,4-6,9H2,1H3,(H3,18,19,20,21);1H
